US07777077B2
5-(4′-Bromomethylbiphenyl-2-yl)-1-trityl-1H-tetrazole
To a nitrogen-saturated suspension of N-triphenylmethyl-5-[4′-methylbiphenyl-2-yl]tetrazole (10 g, 20.9 mmol) in DCM was added NBS (3.7 g, 20.9 mmol) and a catalytic amount of benzoyl peroxide (60 mg, 0.2 mmol). The mixture was stirred at reflux for 15 hours. After cooling to room temperature, the precipitate was filtered and the organic solution was concentrated in vacuo. Silica gel chromatography (EtOAc/hexane) gave the title compound as a white solid.

reactant | N-triphenylmethyl-5-[4′-methylbiphenyl-2-yl]tetrazole | 20.9 mmol, 10 g | C1(=CC=CC=C1)C(N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H26N4
reactant | NBS | 20.9 mmol, 3.7 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.2 mmol, 60 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(4′-Bromomethylbiphenyl-2-yl)-1-trityl-1H-tetrazole | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
